US07947693B2
b) (2R)-2-[(2-Amino-5-mercapto[1,3]thiazolo[4,5-d]pyrimidin-7-yl)(methyl)amino]-4-methylpentan-1-ol
A three-neck round-bottomed flask was immersed in a dry ice/ethanol cooling bath and equipped with a dry ice/ethanol condenser. The system was flushed with nitrogen and ammonia (approximately 50 mL) was condensed into the flask. (2R)-2-[[2-Amino-5-(benzylthio)[1,3]thiazolo[4,5-d]pyrimidin-7-yl](methyl)amino]-4-methylpentan-1-ol (1 g, 2.5 mmol) was added to the flask, resulting in a clear yellow solution. Small pieces of sodium metal (size 2-3 mm) were added one by one to the reaction mixture. When a persistent blue colour (>20 sec) appeared, a spoon of solid NH4Cl was added to quench the reaction. The ammonia was evaporated off. Water (50 mL) was added and the mixture was neutralized with 1M HCl (aq.) to pH 7. The precipitated yellow solid was collected by filtration, washed with water and dried in vacuo to yield 630 mg of the title compound (80% yield).

reactant | (2R)-2-[[2-Amino-5-(benzylthio)[1,3]thiazolo[4,5-d]pyrimidin-7-yl](methyl)amino]-4-methylpentan-1-ol | 2.5 mmol, 1 g | NC=1SC2=C(N=C(N=C2N([C@@H](CO)CC(C)C)C)SCC2=CC=CC=C2)N1 | C19H25N5OS2
reactant | sodium | [Na] | Na
reactant | NH4Cl | [NH4+].[Cl-]
product | (2R)-2-[(2-Amino-5-mercapto[1,3]thiazolo[4,5-d]pyrimidin-7-yl)(methyl)amino]-4-methylpentan-1-ol | 630 mg, 80% yield | NC=1SC2=C(N=C(N=C2N([C@@H](CO)CC(C)C)C)S)N1 | C12H19N5OS2
